US04879296
Preparation of (E)-4-(1,2,3,6-tetrahydro-1,3,-dimethyl-2,6-dioxo-9H-purin-8-yl)cinnamic acid
5,6-Diamino-1,3,-dimethyluracil hydrate (1.70 g, 10.0 mmol) and 4-formylcinnamic acid (1.76 g, 10.0 mmol) were refluxed in acetic acid (10 mL)-methanol (100 mL) for 0.5 hour. (E)-4-[(6-Amino-1,2,3-4-tetrahydro-1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)iminomethyl]cinnamic acid was precipitated as yellow powder (1.84 g, 56%); mp 299°-301° C. with effervescence. Analysis for (C16H16N4O4): C, 58.53; H, 4.91; N, 17.07. Found: C, 58.36; H, 4.93; N, 16.90. Structure confirmed by 1H-NMR and FI mass spectrum. (E)-4-[(6-Amino-1,2,3,4-tetrahydro-1,3-dimethyl-2,4-dioxo-5-pyrimidinylmethyl]cinnamic acid (500 mg, 1.52 mmol) was refluxed in nitrobenzene (125 mL) for 2.5 hours with slow distillation to remove water formed. The reaction mixture was cooled and the precipitate washed with ether. Recrystallization from N,N-dimethylformamide-water gave the monohydrate of the title compound as a pale yellow powder; mp>380° C. Analysis for (C16H14N4O4.H2O): C, 55.81; H, 4.68; N, 16.27. Found: C, 56.05: H, 4.69; N, 16.27. Structure confirmed by 1H-NMR and EI mass spectrum.

reactant | 5,6-Diamino-1,3,-dimethyluracil hydrate | 10.0 mmol, 1.70 g | O.NC=1C(N(C(N(C1N)C)=O)C)=O
reactant | 4-formylcinnamic acid | 10.0 mmol, 1.76 g | C(=O)C1=CC=C(C=CC(=O)O)C=C1 | C10H8O3
reactant | methanol | 100 mL | CO | CH4O
reactant | (6-Amino-1,2,3,4-tetrahydro-1,3-dimethyl-2,4-dioxo-5-pyrimidinylmethyl]cinnamic acid | 1.52 mmol, 500 mg | NC1=C(C(N(C(N1C)=O)C)=O)CC(C(=O)O)=CC1=CC=CC=C1 | C16H17N3O4
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | nitrobenzene | 125 mL | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | (E)-4-(1,2,3,6-tetrahydro-1,3,-dimethyl-2,6-dioxo-9H-purin-8-yl)cinnamic acid | CN1C(N(C=2NC(=NC2C1=O)C1=CC=C(/C=C/C(=O)O)C=C1)C)=O | C16H14N4O4
